US09428502B2
Compound 268.1. Ethyl 1-benzyl-4-methyl-1H-pyrazole-3-carboxylate
Into a 100-mL 3-neck round-bottom flask, was placed a solution of ethyl 4-methyl-1H-pyrazole-3-carboxylate (1.0 g, 6.5 mmol) in tetrahydrofuran (20 mL). The solution was cooled to 0° C., then sodium hydride (360 mg, 9.00 mmol, 60% dispersion in mineral oil) was added in portions and the mixture was stirred for 20 min. Benzyl bromide (904 μL, 7.60 mmol) was added at 0° C., then the resulting mixture was stirred for 1.5 h at room temperature. The reaction was carefully quenched with by drop-wise addition of water (35 mL) and the mixture was extracted with ethyl acetate (3×100 mL). The combined organic extracts were washed with of brine (3×100 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by a silica gel chromatography with ethyl acetate/petroleum ether (1:20-1:2) as eluent to obtain the title compound as a yellow solid (1.0 g, 63%).

reactant | ethyl 4-methyl-1H-pyrazole-3-carboxylate | 6.5 mmol, 1.0 g | CC=1C(=NNC1)C(=O)OCC | C7H10N2O2
reactant | sodium hydride | 9.00 mmol, 360 mg | [H-].[Na+]
reactant | Benzyl bromide | 7.60 mmol, 904 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | Ethyl 1-benzyl-4-methyl-1H-pyrazole-3-carboxylate | 1.0 g, 63% | C(C1=CC=CC=C1)N1N=C(C(=C1)C)C(=O)OCC | C14H16N2O2
